US05882628
e. N-acetyl-3-acetoxymethyl-5-(2,3-diacetoxypropylaminocarbonyl)-2,4,6-triiodoaniline
3-Hydroxymethyl-5-(2,3-dihydroxypropylaminocarbonyl)-2,4,6-triiodoaniline (3.3 g, 5.3 mmol) was suspended in glacial acetic acid (12 ml) containing acetic anhydride (48 ml) and concentrated sulfuric acid (0.08 ml). The mixture was stirred at 60° C. for 3 h, allowed to cool to room temperature, and CH2Cl2 (100 ml) and water (100 ml) were added. The organic phase was washed with water (3×50 ml) and a saturated aqueous solution of NaHCO3 (2×50 ml). After drying (MgSO4) and evaporation, the residue was dissolved in a mixture of CH2Cl2 and methanol (9:1) and filtered through a short silica pad and evaporated. Yield: 3.0 g (71%).

reactant | 3-Hydroxymethyl-5-(2,3-dihydroxypropylaminocarbonyl)-2,4,6-triiodoaniline | 5.3 mmol, 3.3 g | OCC=1C(=C(N)C(=C(C1I)C(=O)NCC(CO)O)I)I | C11H13I3N2O4
reactant | acetic anhydride | 48 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 0.08 ml | S(O)(O)(=O)=O | H2O4S
reactant | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | N-acetyl-3-acetoxymethyl-5-(2,3-diacetoxypropylaminocarbonyl)-2,4,6-triiodoaniline | C(C)(=O)NC1=C(C(=C(C(=C1I)C(=O)NCC(COC(C)=O)OC(C)=O)I)COC(C)=O)I | C19H21I3N2O8
